US07919496B2
A reaction mixture of 2-aminothiazole-2-carboxylic acid methyl ester (0.790 g, 5.0 mmol), N,N-bis(2-chloroethyl)-2-trifluoromethylbenzamide (1.880 g, 6 mmol), K2CO3 (1.0 g, 7.2 mmol), and NaI (0.2 g) in 1,2-dimethoxyethane (20 mL) was heated to reflux for 24 hours. The solvent was removed by evaporation, and the residue was dissolved in ethyl acetate, washed with water and brine, dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography to give 2-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]thiazole-5-carboxylic acid methyl ester (0.317 g) which was used for next step without further purification.

reactant | 2-aminothiazole-2-carboxylic acid methyl ester | 5.0 mmol, 0.790 g | COC(=O)C1(SC=CN1)N | C5H8N2O2S
reactant | N,N-bis(2-chloroethyl)-2-trifluoromethylbenzamide | 6 mmol, 1.880 g | ClCCN(C(C1=C(C=CC=C1)C(F)(F)F)=O)CCCl | C12H12Cl2F3NO
reactant | K2CO3 | 7.2 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.2 g | [Na+].[I-]
reactant | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 2-[4-(2-trifluoromethylbenzoyl)piperazin-1-yl]thiazole-5-carboxylic acid methyl ester | 0.317 g | COC(=O)C1=CN=C(S1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C17H16F3N3O3S
